US09238667B2
Synthesis of (3aR,4R,9bR)-benzyl 4-(methoxymethyl)-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinoline-1-carboxylate
Into a 10 mL Schlenk flask were charged [Rh(cod)2]OTf (2.6 mg) [mw. 468.34, 5.5 μmol, s/c 25] and (2S,4S)-skewphos (2.9 mg) [mw. 440.50, 6.6 μmol], and the system was substituted with argon. Deaeration-treated dehydrated methanol (1 mL) was added by argon pressure supply. Under an argon atmosphere, the mixture was stirred at room temperature for 1 hr. Separately, into a 120 mL stainless autoclave was charged benzyl 3-(2-methoxy-1-(phenylamino)ethylidene)-2-oxopyrrolidine-1-carboxylate (50.0 mg) [mw. 366.41, 136 μmol], and the system was substituted with argon. The catalyst in the Schlenk flask was added into the autoclave by argon pressure supply. Furthermore, the inside of the Schlenk flask was washed with dehydrated methanol (4 mL), and the washing was added into the autoclave by argon pressure supply. Hydrogen was filled therein to 5 MPa, and the mixture was stirred at a reaction temperature of 50° C. for 16 hr. The reaction mixture was allowed to cool to room temperature and depressurized. The area percentage of the resultant product, (3aR,4R,9bR)-benzyl 4-(methoxymethyl)-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinoline-1-carboxylate, was determined by high performance liquid chromatography to find production at a ratio of 49%. The optical purity was 60% ee.

reactant | benzyl 3-(2-methoxy-1-(phenylamino)ethylidene)-2-oxopyrrolidine-1-carboxylate | 136 μmol, 50.0 mg | COCC(NC1=CC=CC=C1)=C1C(N(CC1)C(=O)OCC1=CC=CC=C1)=O | C21H22N2O4
solvent | methanol | 1 mL | CO | CH4O
product | (3aR,4R,9bR)-benzyl 4-(methoxymethyl)-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinoline-1-carboxylate | COC[C@@H]1NC=2C=CC=CC2[C@H]2[C@@H]1CCN2C(=O)OCC2=CC=CC=C2 | C21H24N2O3
